* SPICE3 file created from count.ext - technology: sky130A

.subckt count UP SetB DOWN Dout_buf GND VCCD
Xsky130_fd_sc_hd__dfstp_1_0 UP_buf Q2N SetBi GND GND VCCD VCCD Q1 sky130_fd_sc_hd__dfstp_1
Xsky130_fd_sc_hd__dfstp_1_1 DWN_buf Q1_buf SetBi GND GND VCCD VCCD Q2 sky130_fd_sc_hd__dfstp_1
Xsky130_fd_sc_hd__inv_2_0 SetB GND GND VCCD VCCD SetBi sky130_fd_sc_hd__inv_2
Xsky130_fd_sc_hd__buf_2_1 DOWN GND GND VCCD VCCD DWN_buf sky130_fd_sc_hd__buf_2
Xsky130_fd_sc_hd__inv_2_1 Q2 GND GND VCCD VCCD Q2N sky130_fd_sc_hd__inv_2
Xsky130_fd_sc_hd__buf_2_2 Dout GND GND VCCD VCCD Dout_buf sky130_fd_sc_hd__buf_2
Xsky130_fd_sc_hd__buf_2_3 Q1 GND GND VCCD VCCD Q1_buf sky130_fd_sc_hd__buf_2
Xsky130_fd_sc_hd__buf_2_4 UP GND GND VCCD VCCD UP_buf sky130_fd_sc_hd__buf_2
Xsky130_fd_sc_hd__xor2_1_1 Q1 Q2 GND GND VCCD VCCD Dout sky130_fd_sc_hd__xor2_1
C0 SetBi GND 3.173379f
C1 VCCD GND 14.556002f
.ends
